US04018785
A mixture of ethyl 2-(2-anilinothiazol-4-yl)-propionate (6.15 g), methyl iodide (17 ml) and ethanol (17 ml) is heated at 100° C for 11.5 hours in a sealed tube. The resultant mixture is treated with potassium carbonate in the same manner as in Example 1 (2) to give ethyl 2-(2-phenylimino-3-methyl-4-thiazolin-4-yl)propionate (1.6 g) melting at 80°-81° C (recrystallized from ether/hexane).

reactant | ethyl 2-(2-anilinothiazol-4-yl)-propionate | 6.15 g | N(C1=CC=CC=C1)C=1SC=C(N1)C(C(=O)OCC)C | C14H16N2O2S
reactant | methyl iodide | 17 ml | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | ethyl 2-(2-phenylimino-3-methyl-4-thiazolin-4-yl)propionate | 1.6 g | C1(=CC=CC=C1)N=C1SC=C(N1C)C(C(=O)OCC)C | C15H18N2O2S
